US08227500B2
5-Benzyloxy-2-bromoisonicotinic acid ethyl ester
To a solution of benzylalcohol (1.5 g) in tetrahydrofuran (30 mL) was added sodium hydride (55%, 0.3 g) under ice cooling, and this mixture was stirred at same temperature for 5 minutes. To this reaction mixture was added a solution of 2-bromo-5-fluoroisonicotinic acid ethyl ester (2.9 g) in tetrahydrofuran (30 mL), and this mixture was stirred at room temperature for 2 hours. This reaction mixture was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane) to give the title compound (2.4 g).

reactant | benzylalcohol | 1.5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2-bromo-5-fluoroisonicotinic acid ethyl ester | 2.9 g | C(C)OC(C1=CC(=NC=C1F)Br)=O | C8H7BrFNO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-Benzyloxy-2-bromoisonicotinic acid ethyl ester | 2.4 g | C(C)OC(C1=CC(=NC=C1OCC1=CC=CC=C1)Br)=O | C15H14BrNO3
